US06127354
N-(2-(2-Benzyloxyphenyl)ethyl)-N-methylcarbamic acid tert-butyl ester (4.66 g, 13.65 mmol) was dissolved in ethanol (35.6 ml) and was hydrogenated at room pressure in the presence of 10% palladium on activated carbon for 16 h. The reaction mixture was filtered through a plug of celite. The celite was washed with ethyl acetate (50 ml). The liquid phases were collected. The solvents were removed in vacuo. The crude product was purified by flash chromatography on silica (300 g), using ethyl acetate/heptane (1:2) as eluent, to give 2.84 g of N-(2-(2-hydroxyphenyl)ethyl)-N-methylcarbamic acid tert-butyl ester.

reactant | N-(2-(2-Benzyloxyphenyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 13.65 mmol, 4.66 g | C(C)(C)(C)OC(N(C)CCC1=C(C=CC=C1)OCC1=CC=CC=C1)=O | C21H27NO3
solvent | ethanol | 35.6 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | [Pd] | Pd
product | N-(2-(2-hydroxyphenyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 2.84 g | C(C)(C)(C)OC(N(C)CCC1=C(C=CC=C1)O)=O | C14H21NO3
